US05061713
STAGE B: 2-CHLORO-3-(2-FLUOROBENZOYLAMINO)-4-BUTYRYLPYRIDINE
Using the procedure described in Examples 1 and 2, but replacing 2-phenyloxazolo[4,5-b]pyridine by 3-(2-fluorobenzoylamino)-2-chloropyridine and using 1.5 ml of concentrated sulfuric acid in 7.5 ml of water and 25 ml of acetic acid, and after the separation of 2-chloro-3-(2-fluorobenzoylamino)-6-butyrylpyridine, the expected product is obtained.

reactant | 3-(2-fluorobenzoylamino)-2-chloropyridine | FC1=C(C(=O)NC=2C(=NC=CC2)Cl)C=CC=C1 | C12H8ClFN2O
reactant | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 7.5 ml | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-CHLORO-3-(2-FLUOROBENZOYLAMINO)-4-BUTYRYLPYRIDINE | Yield: 25% | ClC1=NC=CC(=C1NC(C1=C(C=CC=C1)F)=O)C(CCC)=O | C16H14ClFN2O2
